US08309720B2
4-Methyl-2-[3-(1-methyl-piperidin-4-yl)-propylamino]-pyrimidine-5-carbonitrile
In a 100 L glass-lined reactor, a solution of (E)-2-[(dimethylamino)methylene]-3-oxobutanenitrile in ethanol/2-propanol (4.48 kg, 32.43 mol in 8.81 kg of ethanol/2-propanol) was added at 20-25° C. to a stirring solution of N-[3-(N-methyl-4-piperidinyl)-1-propyl]guanidine in ethanol/2-propanol (5.41 kg, 27.28 mol in 28.35 kg of ethanol/2-propanol). The resultant mixture was heated for 1.5 h at reflux, followed by an additional charge of (E)-2-[(dimethylamino)methylene]-3-oxobutanenitrile in ethanol/2-propanol (2.02 kg, 14.57 mol in 3.96 kg of ethanol/2-propanol). The resultant mixture was stirred and cooled to 70-75° C. and then potassium carbonate (7.50 kg, 54.26 mol) was added. The resultant mixture was heated to reflux until the reaction was deemed complete by HPLC. When the reaction was deemed complete, about 35-40 L of solvent was removed via atmospheric distillation. The heating was discontinued and purified water (80.00 kg) was added to the resultant suspension, which was then cooled to 20-25° C. and stirred for about 1 h. The resultant suspension was then further cooled to 0-5° C. and aged for 30 min. The solid was filtered, washed with purified water (40.00 kg) and dried at 75-80° C. under vacuum to yield the title compound.

reactant | (E)-2-[(dimethylamino)methylene]-3-oxobutanenitrile | CN(C)\C=C(/C#N)\C(C)=O | C7H10N2O
reactant | ethanol 2-propanol | 32.43 mol, 4.48 kg | C(C)O.CC(C)O
reactant | N-[3-(N-methyl-4-piperidinyl)-1-propyl]guanidine | CN1CCC(CC1)CCCNC(=N)N | C10H22N4
reactant | ethanol 2-propanol | 27.28 mol, 5.41 kg | C(C)O.CC(C)O
reactant | ethanol 2-propanol | 14.57 mol, 2.02 kg | C(C)O.CC(C)O
reactant | potassium carbonate | 54.26 mol, 7.50 kg | C([O-])([O-])=O.[K+].[K+]
product | 4-Methyl-2-[3-(1-methyl-piperidin-4-yl)-propylamino]-pyrimidine-5-carbonitrile | CC1=NC(=NC=C1C#N)NCCCC1CCN(CC1)C | C15H23N5
